US06673799B1
Methyl 2-morpholinoisonicotinate
A 5.0 g portion of 2-chloroisonicotinic acid and 6.91 g of morpholine were suspended in 16 ml of isopropanol and stirred at 150° C. for 27 hours in a sealed tube. The solvent was evaporated and then the residue was mixed with 70 ml of methanol and 5 ml of concentrated sulfuric acid and heated under reflux for 6.5 hours. The solvent was evaporated and the residue was dissolved in chloroform and washed with saturated aqueous sodium bicarbonate. After evaporation of the solvent, the resulting mixture was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (4:1, v/v) to obtain 4.42 g of crystals of the title compound.

reactant | 2-chloroisonicotinic acid | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | morpholine | 6.91 g | N1CCOCC1 | C4H9NO
reactant | isopropanol | 16 ml | C(C)(C)O | C3H8O
product | Methyl 2-morpholinoisonicotinate | 4.42 g | O1CCN(CC1)C=1C=C(C(=O)OC)C=CN1 | C11H14N2O3
